US08685989B2
Production of ethyl 2-(3-chloropyrazine-2-yloxy)acetate (Compound 24)
The title compound was synthesized from 2,3-dichloropyrazine and ethyl 2-hydroxyacetate in the same manner as in Example 19.

reactant | 2,3-dichloropyrazine | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | ethyl 2-hydroxyacetate | OCC(=O)OCC | C4H8O3
product | ethyl 2-(3-chloropyrazine-2-yloxy)acetate | ClC=1C(=NC=CN1)OCC(=O)OCC | C8H9ClN2O3
